2165-10-29 00:38:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64W discharged 3 days ago following admission for pneumonia and GI
   bleed. Returns from rehab with poor mental status and hypotension. She
   has become increasingly somnolent over past 24 hours. Transferred to ER
   - Temp 101.8, 98/53, 96% 4 LPM. CXR showed stable LLL infiltrate and
   possible new right infiltrate. Given antibiotics and transferred to
   ICU.
   She became increasingly unresposive in the ICU and intubated.
   Peripheral IV access was attempted by many including the writer without
   success.
   24 Hour Events:
   History obtained from housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2165-10-28**] 11:30 PM
   Fentanyl - [**2165-10-28**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   obesity
   SLE
   APL - CVA's
   colectomy for colon cancer
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Coagulopathy
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2165-10-29**] 12:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 75 (75 - 90) bpm
   BP: 70/37(45) {70/37(45) - 115/62(69)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,027 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                  2,027 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                     65 mL
                                                                      0 mL
   Urine:
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,962 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 434 (434 - 434) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.11/79/175 prior to intubation
   Ve: 7.2 L/min
   PaO2 / FiO2: 292
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242
   149 mg/dL
   3.1
   27
   5.1 mEq/L
   44
   108 mEq/L
   142 mEq/L
   28
   15
        [image002.jpg]
                             [**2165-10-28**]  09:53 PM
   Hct
   28
   TCO2
   27
   Glucose
   149
   Other labs: ALT / AST:/49, Lactic Acid:0.6 mmol/L
   Imaging: CXR stable opacity LLL, new infiltrates RLL
   Assessment and Plan
   pneumonia / resp failure - continue vent support, continue vanco,
   cipro. allergies limit antibiotic choices. Target pH in 7.3's.
   hypotension - suspect due to sepsis, will place CVL and volume
   resuscitate. Wean pressor as tolerated.
   ARF - likely related to pneumonia/sepsis, volume resuscitate and follow
   recent GI bleed - follow Hct
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-28**] 08:39 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2165-10-29 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pneumonia
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2165-10-28**] 10:30 PM
 NON-INVASIVE VENTILATION - STOP [**2165-10-28**] 11:42 PM
 INVASIVE VENTILATION - START [**2165-10-28**] 11:45 PM
 SPUTUM CULTURE - At [**2165-10-29**] 12:22 AM
 MULTI LUMEN - START [**2165-10-29**] 01:44 AM
 URINE CULTURE - At [**2165-10-29**] 02:00 AM
 ARTERIAL LINE - START [**2165-10-29**] 05:52 AM
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Sedated, Unresponsive
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2165-10-28**] 11:30 PM
   Fentanyl - [**2165-10-28**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Eyes: Conjunctival edema
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: NPO
   Respiratory: No(t) Wheeze
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2165-10-29**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 67 (63 - 90) bpm
   BP: 129/61(86) {129/61(86) - 172/72(300)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  4,027 mL
                                                                  1,271 mL
   PO:
   TF:
   IVF:
                                                                  2,027 mL
                                                                    581 mL
   Blood products:
                                                                    590 mL
   Total out:
                                                                     65 mL
                                                                    199 mL
   Urine:
                                                                     65 mL
                                                                    199 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,962 mL
                                                                  1,072 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 434 (434 - 434) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.11/78.[**Numeric Identifier 181**]/175/22/-6
   Ve: 7.1 L/min
   PaO2 / FiO2: 292
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic
   Eyes / Conjunctiva: PERRL, Sclera edema, pinpoint pupils
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Nondistended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Oriented (to): , Movement:
   Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   246 K/uL
   8.3 g/dL
   138 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.7 mEq/L
   44 mg/dL
   110 mEq/L
   142 mEq/L
   27.7 %
   17.5 K/uL
        [image002.jpg]
                             [**2165-10-28**]  09:53 PM
                            [**2165-10-29**]  02:45 AM
   WBC
   17.5
   Hct
   28
   27.7
   Plt
   246
   Cr
   3.0
   TCO2
   27
   Glucose
   149
   138
   Other labs: PT / PTT / INR:29.4/53.1/2.9, ALT / AST:28/, Lactic
   Acid:0.6 mmol/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Assessment and Plan:
   A 64 year old lady recently admitted with PNA and GI Bleed now
   readmitted with altered mental status and R middle lobe pneumonia. Her
   respiratory and hemodynamic status are tentative.
   1. Respiratory failure: The patient's status is tenuous as she is
   diaphoretic and starting to use accessory muscles to breath.  She is
   requiring 100% NRB to maintain sats >90.  Intubation OK with patient's
   wishes per husband. Underlying cause is worsening HAP.
   - serial ABG's q4h
   - Intubated, wean pressors and intubation as patient permits
   - Continue Vanc, Cipro; and add Aztreonam for better gm (-) coverage
   - resend sputum cx b/c of URI contamination
   - flu swab testing order needs to be entered
   - bronchoscopy today b/c xray shows possible mucous plug
   - consult rheum as this could possibly be SLE pneumonitis causing this.
   2. Hypotension: The patient's hypotension is likely from sepsis as she
   has no signs of heart failure.  Fluid rescussitation is proceeding with
   Normal Saline boluses.
   - Obtained central access, CVP monitoring
   - ECHO to assure shock not cardiac
   - Obtained an arterial access
   - Vanc/Cipro/Aztreonam as above
   - Neosynephrine as needed to maintain MAP>65 and UOP
   3. ARF: The patient's creatinine is elevated markedly above baseline.
   She has not taken much PO for 2-3 days suggesting a pre-renal etiology,
   but ATN is also possible if she has been hypotensive leading up to
   admission.
   - Repeat U/A, lytes
   - IVF as above
   - consult renal as this may be renal insufficiency in setting of SLE
   and phospholipid syndrome
   4. Anti-phospholipid syndrome: The patient has a history of strokes and
   clots and GI bleed.  Her goal INR is [**1-22**], and she is currently
   supratherapeutic.
   - Heme consult for proper anticoagulation
   - FFP with procedures to goal [**1-22**] INR
   - Goal INR [**1-22**] with Warfarin
   - Consult Heme in AM re: Heparin gtt vs. warfarin
   - continue ASA, hold Dipyrimadole given overall bleeding risk and need
   for procedures
   5. Seizure disorder: No signs of seizure activity at this time.
   -Continue Tegretol, Neurontin, Carbamazapine
   - Consult neuro in AM for possible EEG
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Subutaneous heparin
   Access: peripherals, Place IJ
   Code:  DNR, OK to intubate, confirmed with Husband
   Communication: [**Name2 (NI) **]; Husband [**Name (NI) **]
   Disposition: ICU pending clinical improvement

2165-10-29 09:33:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2165-10-28**] 10:30 PM
 NON-INVASIVE VENTILATION - STOP [**2165-10-28**] 11:42 PM
 INVASIVE VENTILATION - START [**2165-10-28**] 11:45 PM
 SPUTUM CULTURE - At [**2165-10-29**] 12:22 AM
 MULTI LUMEN - START [**2165-10-29**] 01:44 AM
 URINE CULTURE - At [**2165-10-29**] 02:00 AM
 ARTERIAL LINE - START [**2165-10-29**] 05:52 AM
   admitted to ICU
   Intubated (awake fiberoptic)
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2165-10-28**] 11:30 PM
   Fentanyl - [**2165-10-28**] 11:30 PM
   Other medications:
   [**Last Name (LF) 11389**], [**First Name3 (LF) 5**], neo @ .8, cipro, fentanyl, midaz, SQI, topamx, H2B,
   gabapentin, fluconzole (for vaginal yeast infxn)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-29**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 64 (63 - 90) bpm
   BP: 112/57(76) {112/57(76) - 172/72(300)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  4,027 mL
                                                                  1,349 mL
   PO:
   TF:
   IVF:
                                                                  2,027 mL
                                                                    659 mL
   Blood products:
                                                                    590 mL
   Total out:
                                                                     65 mL
                                                                    199 mL
   Urine:
                                                                     65 mL
                                                                    199 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,962 mL
                                                                  1,150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 434 (434 - 434) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.24/56/142/22/-4
   Ve: 7.1 L/min
   PaO2 / FiO2: 237
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: distant
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+ edema
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   246 K/uL
   138 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.7 mEq/L
   44 mg/dL
   110 mEq/L
   142 mEq/L
   27.7 %
   17.5 K/uL
        [image002.jpg]
                             [**2165-10-28**]  09:53 PM
                            [**2165-10-29**]  02:45 AM
                            [**2165-10-29**]  07:43 AM
   WBC
   17.5
   Hct
   28
   27.7
   Plt
   246
   Cr
   3.0
   TCO2
   27
   25
   Glucose
   149
   138
   Other labs: PT / PTT / INR:29.4/53.1/2.9, ALT / AST:28/, Lactic
   Acid:0.8 mmol/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   64-year-old woman with complex past history (SLE, antiphospholipid
   syndrome, etc) now presents with
          Respiratory Failure
          Shock
          Acute Renal Failure
          Probable pneumonia (with possible atelectasis or effusion)
          Acidosis
          Lupus
          Antiphospholid syndrome
   We will add aztreonam (given multiple allergies), attempt bronchoscopy
   (7.0 tube, so may be complex), check renal studies (urine lytes and
   sediment, and consult rheumatology, renal, and hematology for
   assistance.
   Discussed with husband.
   ICU [**Name2 (NI) 81**]
   Nutrition: start TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-28**] 08:39 PM
   Multi Lumen - [**2165-10-29**] 01:44 AM
   Arterial Line - [**2165-10-29**] 05:52 AM
   Prophylaxis:
   DVT: Boots(consult heme for assistance with anticoagulation)
   Stress ulcer: H2B
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: discussed with husband
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent:  40 minutes
   Patient is critically ill

2165-10-30 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock in the setting of PNA
   24 Hour Events:
   - BRONCHOSCOPY - At [**2165-10-29**] 05:30 PM
   - ECHO EF 45-50%; some LV dysfunction.  No RHF
   - patient was successfully extubated this morning and is tolerating 50%
   face mask
   - urine culture grew out yeast, which may be contaminant
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2165-10-30**] 04:22 AM
   Ciprofloxacin - [**2165-10-30**] 04:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: No(t) Conjunctival edema
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: No(t) Constipation
   Flowsheet Data as of  [**2165-10-30**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 86 (57 - 86) bpm
   BP: 133/62(87) {89/50(62) - 133/78(97)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 23 (11 - 305)mmHg
   Total In:
                                                                  3,042 mL
                                                                    353 mL
   PO:
   TF:
                                                                    102 mL
                                                                     20 mL
   IVF:
                                                                  2,150 mL
                                                                    282 mL
   Blood products:
                                                                    590 mL
   Total out:
                                                                    884 mL
                                                                    305 mL
   Urine:
                                                                    884 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,158 mL
                                                                     48 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.35/40/90.[**Numeric Identifier 126**]/21/-3
   Ve: 10.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Bowel sounds present, Non-distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): voice, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   217 K/uL
   7.8 g/dL
   107 mg/dL
   2.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   47 mg/dL
   113 mEq/L
   142 mEq/L
   23.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2165-10-28**]  09:53 PM
                            [**2165-10-29**]  02:45 AM
                            [**2165-10-29**]  07:43 AM
                            [**2165-10-29**]  10:49 AM
                            [**2165-10-29**]  03:03 PM
                            [**2165-10-29**]  06:16 PM
                            [**2165-10-30**]  02:58 AM
   WBC
   17.5
   8.9
   Hct
   28
   27.7
   23.7
   Plt
   246
   217
   Cr
   3.0
   2.6
   2.4
   TCO2
   27
   25
   25
   23
   Glucose
   149
   138
   107
   Other labs: PT / PTT / INR:39.6/42.9/4.1, ALT / AST:28/, Lactic
   Acid:0.8 mmol/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A 64 year old female with phospholipid syndrome admitted to the unit in
   shock in the setting of pneumonia
   1. Respiratory failure: Patient currently undergoing SBT to be weaned
   from intubation. Bronchoscopy yesterday to r/o mucous plug.
   - repeat ABG
   - Continue Cipro, Linezolid, and Aztreonam until cultures back
   - resend flu swab because last was negative and uncertain about this
   result
   - CT chest to r/o PE
   .
   2. Hypotension (corrected): The patient's hypotension was likely from
   sepsis as she has no signs of heart failure.  Patient has been weaned
   from pressors and fluids.  She has been successfully extubated.  Her
   ECHO yesterday did not reveal cardiac cause of her shock (EF 45-55%).
   Has central and arterial access.
   - Continue to treat PNA as above
   - Neosynephrine as needed to maintain MAP>65 and UOP
   .
   3. ARF: The patient's creatinine is elevated markedly above baseline.
   She has not taken much PO for 2-3 days suggesting a pre-renal etiology,
   but ATN is also possible if she has been hypotensive leading up to
   admission.  Renal was consulted and found muddy brown casts and low
   FeNA suggesting a combination of causes.   Unlikely to have lupus as
   cause since happened so quickly.
   - Renal recommends:
   ----rechecking urine lytes this am.  If FeNa still low, will give more
   fluid.  If not, give kidney time to repair itself
   ----CTM creatinine
   .
   4. Anti-phospholipid syndrome: The patient has a history of strokes and
   clots and GI bleed.  Her goal INR is [**1-22**], and she is currently
   supratherapeutic.  Heme was consulted.
   -Heme recommends:
   ----CT head and chest to r/o bleed to head and PE
   ----PTT of 70-90 if INR <3.0
   - No more procedures, so keep her therapeutic
   - continue ASA and restart Dipyrimadole if Hct improves (see below)
   - restart coumadin at home dose if Hct improves (see below)
   .
   5. Seizure disorder: No signs of seizure activity at this time.
   - Continue Tegretol, Neurontin, Carbamazapine
   .
   6. Hct decrease: Patient is supratherapeutic right now and has a high
   likelihood of bleeding.  Patient already type and crossed
   - repeat Hct this afternoon and evening
   - Guaiac stool
   - Reverse her anticoag if continues to drop her Hct
   - consider imaging for cause of
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Pneumoboots, SC heparin
   Access: peripherals, IJ, ART line
   Code:  DNR, OK to intubate, confirmed with Husband
   Communication: [**Name2 (NI) **]; Husband [**Name (NI) **]
   Disposition: ICU pending clinical improvement

2165-10-31 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock in the setting of PNA
   24 Hour Events:
   Put back on BiPAP from nonrebreather
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-10-30**] 04:23 AM
   Linezolid - [**2165-10-30**] 10:00 PM
   Aztreonam - [**2165-10-31**] 03:49 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2165-10-30**] 10:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Wheeze
   Flowsheet Data as of  [**2165-10-31**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 89 (81 - 94) bpm
   BP: 150/79(102) {125/58(79) - 155/79(103)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 17 (9 - 25)mmHg
   Total In:
                                                                  1,543 mL
                                                                     50 mL
   PO:
                                                                    480 mL
   TF:
                                                                     20 mL
   IVF:
                                                                    932 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    575 mL
   Urine:
                                                                  1,810 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -267 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 556 (556 - 556) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 35%
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.32/49/94.[**Numeric Identifier 126**]/22/-1
   Ve: 10 L/min
   PaO2 / FiO2: 269
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   b/l)
   Abdominal: Soft, hard mass felt along surgery scar line
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   8.3 g/dL
   108 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   38 mg/dL
   113 mEq/L
   141 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2165-10-29**]  06:16 PM
                            [**2165-10-30**]  02:58 AM
                            [**2165-10-30**]  07:28 AM
                            [**2165-10-30**]  08:52 AM
                            [**2165-10-30**]  03:33 PM
                            [**2165-10-30**]  03:54 PM
                            [**2165-10-30**]  06:44 PM
                            [**2165-10-30**]  10:23 PM
                            [**2165-10-31**]  03:00 AM
                            [**2165-10-31**]  03:06 AM
   WBC
   8.9
   8.5
   Hct
   23.7
   25.9
   26.5
   Plt
   217
   215
   Cr
   2.4
   1.7
   TCO2
   23
   24
   24
   27
   25
   25
   26
   Glucose
   107
   108
   Other labs: PT / PTT / INR:33.3/43.9/3.4, ALT / AST:24/44, Alk Phos / T
   Bili:116/0.2, Lactic Acid:0.8 mmol/L, LDH:318 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A 64 year old female with phospholipid syndrome admitted to the unit in
   shock in the setting of pneumonia
   1. Respiratory failure: weaned from intubation, now on CPAP because in
   distress on non-rebreather
   - repeat ABG
   - Continue Cipro, Linezolid, and Aztreonam until cultures back
   -diuresis
   -wean to nasal cannula as tolerated
   - Heme suggested CT chest to r/o PE's, but will only do this if not
   able to wean b/c already being anticoagulated
   .
   2. Hypotension (corrected): The patient's hypotension was likely from
   sepsis as she has no signs of heart failure.  Patient has been weaned
   from pressors and fluids.  She has been successfully extubated.  Her
   ECHO yesterday did not reveal cardiac cause of her shock (EF 45-55%).
   Has central and arterial access.
   - Continue to treat PNA as above
   - Neosynephrine as needed to maintain MAP>65 and UOP
   .
   3. ARF: The patient's creatinine is elevated markedly above baseline.
   She has not taken much PO for 2-3 days suggesting a pre-renal etiology,
   but ATN is also possible if she has been hypotensive leading up to
   admission.  Renal was consulted and found muddy brown casts and low
   FeNA suggesting a combination of causes.   Unlikely to have lupus as
   cause since happened so quickly.  Currently more of an ATN pic
   according to renal.
   - Renal recommends:
   ----Cipro [**Hospital1 7**] if needed clinically
   ----CTM creatinine
   .
   4. Anti-phospholipid syndrome: The patient has a history of strokes and
   clots and GI bleed.  Her goal INR is [**1-22**], and she is currently
   supratherapeutic.  Heme was consulted.
   -Heme recommends:
   -----CT head and chest to r/o bleed to head and PE
   -----restart coumadin at dose of 5mg
   - No more procedures, so keep her therapeutic
   - continue ASA and restart Dipyrimadole
   .
   5. Seizure disorder: No signs of seizure activity at this time.
   - Continue Tegretol, Neurontin, Carbamazapine
   .
   6. Hct decrease: Patient is supratherapeutic right now and has a high
   likelihood of bleeding.  Patient already type and crossed
   Hct improved overnight.
   - Will continue to monitior
   - Reverse her anticoag if continues to drop her Hct
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Pneumoboots, SC heparin
   Access: peripherals, IJ, ART line
   Code:  DNR, OK to intubate, confirmed with Husband
   Communication: [**Name2 (NI) **]; Husband [**Name (NI) **]
   Disposition: ICU pending clinical improvement

2165-10-31 08:25:00 Physician Attending Progress Note
Chief Complaint: Septic shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday, on BiPAp this AM
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2165-10-30**] 09:23 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-10-30**] 04:23 AM
   Linezolid - [**2165-10-30**] 10:00 PM
   Aztreonam - [**2165-10-31**] 03:49 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2165-10-30**] 10:55 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: on BiPap
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-10-31**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 89 (81 - 94) bpm
   BP: 150/79(102) {125/58(79) - 155/79(103)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 17 (9 - 25)mmHg
   Total In:
                                                                  1,543 mL
                                                                     50 mL
   PO:
                                                                    480 mL
   TF:
                                                                     20 mL
   IVF:
                                                                    932 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    575 mL
   Urine:
                                                                  1,810 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -267 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, CPAP mask
   SpO2: 94%
   ABG: 7.32/49/94.[**Numeric Identifier 126**]/22/-1
   PaO2 / FiO2: 269
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   215 K/uL
   108 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   38 mg/dL
   113 mEq/L
   141 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2165-10-29**]  06:16 PM
                            [**2165-10-30**]  02:58 AM
                            [**2165-10-30**]  07:28 AM
                            [**2165-10-30**]  08:52 AM
                            [**2165-10-30**]  03:33 PM
                            [**2165-10-30**]  03:54 PM
                            [**2165-10-30**]  06:44 PM
                            [**2165-10-30**]  10:23 PM
                            [**2165-10-31**]  03:00 AM
                            [**2165-10-31**]  03:06 AM
   WBC
   8.9
   8.5
   Hct
   23.7
   25.9
   26.5
   Plt
   217
   215
   Cr
   2.4
   1.7
   TCO2
   23
   24
   24
   27
   25
   25
   26
   Glucose
   107
   108
   Other labs: PT / PTT / INR:33.3/43.9/3.4, ALT / AST:24/44, Alk Phos / T
   Bili:116/0.2, Lactic Acid:0.8 mmol/L, LDH:318 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment and Plan
   64-year-old woman with complex past history (SLE, antiphospholipid
   syndrome, etc) in MICU with respiratory and shock
   Respiratory Failure - extubated yesterday.  Go back on BiPap this AM.
   Awaiting influenza culture - remains on precautions.  Recheck CXR for
   effusion
   Shock - resolved
   Acute Renal Failure - Continues to improve
   Antiphospholid syndrome - Coumadin restarted
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-28**] 08:39 PM
   Multi Lumen - [**2165-10-29**] 01:44 AM
   Arterial Line - [**2165-10-29**] 05:52 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2165-11-01 06:12:00 Physician Resident Progress Note
Chief Complaint: Dyspnea in setting of PNA
   24 Hour Events:
   - Failure to wean off BiPAP
   -guaiac positive stool
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2165-10-31**] 08:07 PM
   Ciprofloxacin - [**2165-11-1**] 03:57 AM
   Linezolid - [**2165-11-1**] 03:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-1**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 86 (84 - 96) bpm
   BP: 134/64(87) {123/59(80) - 159/80(106)} mmHg
   RR: 17 (17 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 12 (8 - 22)mmHg
   Total In:
                                                                    750 mL
                                                                    500 mL
   PO:
   TF:
   IVF:
                                                                    750 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    315 mL
   Urine:
                                                                  1,595 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -845 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, CPAP mask
   SpO2: 95%
   ABG: 7.33/48/91.[**Numeric Identifier 143**]/24/-1 (4am)
   PaO2 / FiO2: 263
   Physical Examination
   General: Aand OX3 Chest: tachypneic, +exp wheezes bilaterally. Neuro:
   mentating well, and conversant. Ext:  +edema in LE and DP present
   Heart: NRRR no murmurs  Abd: NTND nl BS
   Labs / Radiology
   231 K/uL
   8.1 g/dL
   111 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.4 mEq/L
   31 mg/dL
   114 mEq/L
   145 mEq/L
   26.8 %
   8.4 K/uL
        [image002.jpg]
                            [**2165-10-31**]  03:06 AM
                            [**2165-10-31**]  09:12 AM
                            [**2165-10-31**]  09:16 AM
                            [**2165-10-31**]  10:34 AM
                            [**2165-10-31**]  12:09 PM
                            [**2165-10-31**]  03:20 PM
                            [**2165-10-31**]  03:25 PM
                            [**2165-10-31**]  03:48 PM
                            [**2165-11-1**]  03:18 AM
                            [**2165-11-1**]  03:54 AM
   WBC
   8.4
   Hct
   27.3
   26.8
   Plt
   231
   Cr
   1.5
   1.4
   TCO2
   26
   26
   19
   25
   26
   26
   26
   Glucose
   123
   111
   Other labs: PT / PTT / INR:58.1/51.4/6.5, ALT / AST:24/44, Alk Phos / T
   Bili:116/0.2, Lactic Acid:0.8 mmol/L, LDH:318 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A 64 year old female with phospholipid syndrome admitted to the unit in
   shock in the setting of pneumonia
   1. Respiratory failure: weaned from intubation, now on BiPAP because in
   distress on non-rebreather; Long conversation with husband about
   declining function at home.  She has apparently been somnolent during
   the day for some time.
   - repeat ABG
   - Continue Cipro, Linezolid, and Aztreonam until cultures back
   -diuresis with 10mg IV lasix with a goal of negative 1L
   - wean to nasal cannula as tolerated
   - Heme suggested CT chest to r/o PE's will hold on this considering the
   fact that she is already treated for this condition
   .
   2. Hypotension (corrected): The patient's hypotension was likely from
   sepsis as she has no signs of heart failure.  Patient has been weaned
   from pressors and fluids.  She has been successfully extubated.  Her
   ECHO did not reveal cardiac cause of her shock (EF 45-55%).  Has
   central and arterial access.
   - Continue to treat PNA as above
   .
   3. ARF (corrected): The patient's creatinine was elevated markedly
   above baseline.  She had not taken much PO for 2-3 days suggesting a
   pre-renal etiology, but ATN was also possible if she has been
   hypotensive leading up to admission.  Renal was consulted and found
   muddy brown casts and low FeNA suggesting a combination of causes.
   Unlikely to have lupus as cause since happened so quickly.  Currently
   more of an ATN pic according to renal.
   -CTM creatinine
   .
   4. Anti-phospholipid syndrome: The patient has a history of strokes and
   clots and GI bleed.  Her goal INR is [**1-22**], and she is supratherapeutic.
   -Follow Heme recs
   -restart coumadin at dose of 5mg when INR therapeutic
   - No more procedures, so keep her therapeutic
   - continue ASA and consider restarting Dipyrimadole
   - No coumadin dose today because of high INR
   .
   5. Seizure disorder: No signs of seizure activity at this time.
   - Continue Tegretol, Neurontin, Carbamazapine
   .
   6. Hct decrease: Patient is supratherapeutic right now and has a high
   likelihood of bleeding.  Patient already type and crossed
   Hct improved overnight.
   - Add PPI to treat for possible UGI bleed
   - Will continue to monitior
   - No plan to reverse her antigoagulation at this point
   .
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Pneumoboots, SC heparin
   Access: peripherals, IJ, ART line
   Code:  DNR, OK to intubate, confirmed with Husband
   Communication: [**Name2 (NI) **]; Husband [**Name (NI) **]
   Disposition: ICU pending clinical improvement

2165-11-01 09:33:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   on NIMV for respiratory acidosis
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2165-10-31**] 08:07 PM
   Linezolid - [**2165-11-1**] 03:57 AM
   Ciprofloxacin - [**2165-11-1**] 03:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   [**Last Name (LF) 11389**], [**First Name3 (LF) 5**] 81, cipro, sqi, topamax, fluc, aztreonam, linezolid,
   warfarin given yesterday, neurontin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-1**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 83 (83 - 95) bpm
   BP: 142/67(91) {123/59(80) - 159/80(106)} mmHg
   RR: 17 (17 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 15 (8 - 18)mmHg
   Total In:
                                                                    750 mL
                                                                    500 mL
   PO:
   TF:
   IVF:
                                                                    750 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    675 mL
   Urine:
                                                                  1,595 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -845 mL
                                                                   -175 mL
   Respiratory support
   SpO2: 96%
   ABG: 7.33/48/91.[**Numeric Identifier 143**]/24/-1
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam only)
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+ edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   231 K/uL
   111 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.4 mEq/L
   31 mg/dL
   114 mEq/L
   145 mEq/L
   26.8 %
   8.4 K/uL
        [image002.jpg]
                            [**2165-10-31**]  03:06 AM
                            [**2165-10-31**]  09:12 AM
                            [**2165-10-31**]  09:16 AM
                            [**2165-10-31**]  10:34 AM
                            [**2165-10-31**]  12:09 PM
                            [**2165-10-31**]  03:20 PM
                            [**2165-10-31**]  03:25 PM
                            [**2165-10-31**]  03:48 PM
                            [**2165-11-1**]  03:18 AM
                            [**2165-11-1**]  03:54 AM
   WBC
   8.4
   Hct
   27.3
   26.8
   Plt
   231
   Cr
   1.5
   1.4
   TCO2
   26
   26
   19
   25
   26
   26
   26
   Glucose
   123
   111
   Other labs: PT / PTT / INR:58.1/51.4/6.5, ALT / AST:24/44, Alk Phos / T
   Bili:116/0.2, Lactic Acid:0.8 mmol/L, LDH:318 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   64-year-old woman with complex past history (SLE, antiphospholipid
   syndrome, etc) now presents with
          Respiratory Failure
 extubated [**10-30**] but still on NIMV this
   morning
          Shock
 resolved
          Acute Renal Failure
 improving, felt most c/w ATN
          Probable pneumonia (with possible atelectasis or effusion)
   getting [**Month/Year (2) **] given severity of illness
          Lupus
          Antiphospholid syndrome
          Coagulopathy (elevated INR, likely warfarin + other meds)
   We will plan:
          since cx obtained on [**Last Name (LF) **], [**First Name3 (LF) **] complete 8d course [**First Name3 (LF) **] for
   presumptive HCAP.
          diurese -[**Telephone/Fax (1) 7328**]
          trial off NIMV
          add PPI for OB+ stools
          stop fluconazole (for yeast infection), since may interfere
   with warfarin
          discuss INR with heme: likely should just watch for now,
   given lack of clinical bleeding
   ICU Care
   Nutrition:
   If off NIMV, try POs
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-28**] 08:39 PM
   Multi Lumen - [**2165-10-29**] 01:44 AM
   Arterial Line - [**2165-10-29**] 05:52 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments: add PPI given heme + stool
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 30 min

2165-11-02 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure/Acute kidney injury
   24 Hour Events:
   - am rounds: d/c Fluconazole, HOLD Coumadin for INR 6.4
   - Lasix 10 IV x1 then try SBT
   - 3pm Hct and coags: Hct 25.1 and coags: INR 10.2 --> repeat at 730p
   9.7.
   - Has new rash on back, drugs vs sweaty back rash
   - INR still elevated, will need to discuss giving VitK with heme early
   this am.
   Allergies:
   Penicillins - Anaphylaxis;
   Codeine - Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended) - very yellow uri
   Erythromycin Base - Hives; Rash;
   Adhesive Bandage (Topical) - Rash;
   Tetracycline - [**Location (un) **] skin;
   Vancomycin - Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium) - unknown;
   Atropine - Rash; Shortness
   Gentamicin - redman's syndro
   Sulfa (Sulfonamides) - Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus - Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2165-11-1**] 01:53 PM
   Linezolid - [**2165-11-1**] 10:00 PM
   Ciprofloxacin - [**2165-11-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-11-1**] 10:00 AM
   Morphine Sulfate - [**2165-11-1**] 11:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-2**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 89 (83 - 96) bpm
   BP: 151/75(102) {140/66(91) - 170/82(112)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: -1 (-1 - 21)mmHg
   Total In:
                                                                  1,800 mL
                                                                    512 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,320 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    660 mL
   Urine:
                                                                  1,605 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    195 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.34/49/69/26/0
   PaO2 / FiO2: 2,300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   8.0 g/dL
   99 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.8 mEq/L
   23 mg/dL
   112 mEq/L
   144 mEq/L
   25.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2165-10-31**]  12:09 PM
                            [**2165-10-31**]  03:20 PM
                            [**2165-10-31**]  03:25 PM
                            [**2165-10-31**]  03:48 PM
                            [**2165-11-1**]  03:18 AM
                            [**2165-11-1**]  03:54 AM
                            [**2165-11-1**]  04:46 PM
                            [**2165-11-1**]  07:55 PM
                            [**2165-11-2**]  02:46 AM
                            [**2165-11-2**]  03:15 AM
   WBC
   8.4
   7.8
   Hct
   27.3
   26.8
   25.1
   25.2
   Plt
   231
   228
   Cr
   1.5
   1.4
   1.2
   TCO2
   26
   26
   26
   28
   28
   Glucose
   123
   111
   99
   Other labs: PT / PTT / INR:83.1/54.8/10.0, ALT / AST:24/44, Alk Phos /
   T Bili:116/0.2, Lactic Acid:0.8 mmol/L, LDH:318 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: [**10-1**] CXR: Small bilateral pleural effusions right greater
   than left associated with adjacent atelectasis greater on the left side
   are unchanged.  There is no pneumothorax. No evidence of pulmonary
   edema.
   Microbiology: [**10-29**] BAL: negative bacterial and viral cultures.
   Assessment and Plan
 COAGULOPATHY
 RASH
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   A 64 year old female with phospholipid syndrome admitted to the unit in
   shock in the setting of pneumonia
   1. Anti-phospholipid syndrome: The patient has a history of strokes and
   clots and GI bleed.  Her goal INR is 3, and she is supratherapeutic at
   10.0 this morning.  We want to avoid over-correcting with vitamin K.
   Likely her INR is elevated in the setting of a fluroquinolone and poor
   nutrition.  We will let her INR drift down on its own instead of active
   reversal.
   - Follow Heme recs
   - Unless she needs procedures, simply observe her Hct and let it drift
   down.  [**Month (only) 51**] consider giving a limited amount of FFP to pull her arterial
   line in the near future.
   - continue ASA, but not dipyridimole
   - No coumadin dose today because of high INR
   .
   2.  Respiratory failure: Her gas this morning was 7.34/49/69, and she
   seems stabilized with BiPAP at night and nasal cannula during the day.
   As we do not have cultures, we will simply continue her broad-spectrum
   antibiotics for a total 7-day course.  Today is day 5.
   - Continue Cipro and Linezolid day [**4-25**] for pneumonia.
   - goal today for I/O is even.
   - wean to nasal cannula as tolerated
   - Discuss with respiratory about finding a night machine that is
   similar to what she can use at home.
   .
   3.  Rash: The patient has a new blanching papular rash on her back that
   appears to be folliculitis.  Talking to derm over the phone, they
   suggested chlrohexidine rinses and keeping her off of her back as much
   as possible.
   - chlorhexidine washes [**Hospital1 7**] over affected water.
   - frequent turning and encouraging patient to be OOB in chair and
   upright as much as possible.
   .
   4. ARF: The patient
s creatinine has improved dramatically to 1.2 which
   is only mildly elevated over her baseline.  Originally, renal was
   consulted and found muddy brown casts and low FeNA suggesting a
   combination of causes.   Unlikely to have lupus as cause since happened
   so quickly.
   -daily creatinine
   .
   5. Seizure disorder: No signs of seizure activity at this time.
   - Continue Tegretol, Neurontin, Carbamazapine
   .
   6. Hct decrease: Patient is supratherapeutic right now and has a high
   likelihood of bleeding.  Patient already type and crossed
   Hct improved overnight.
   - Add PPI to treat for possible UGI bleed
   - Will continue to monitior
   - No plan to reverse her antigoagulation at this point
   .
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Pneumoboots, SC heparin
   Access: peripherals, IJ, ART line -> can consider pulling art line
   tomorrow if respiratory status remains stable and IJ once INR more
   normalized.
   Code:  DNR, OK to intubate, confirmed with Husband
   Communication: [**Name2 (NI) **]; Husband [**Name (NI) **]
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: tube feeds.
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-28**] 08:39 PM
   Multi Lumen - [**2165-10-29**] 01:44 AM
   Arterial Line - [**2165-10-29**] 05:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2165-11-03 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Dyspnea and change in mental status
   24 Hour Events:
   Need to return to BiPAP for  adequate ventilation; feeling of
   subjective shortness of breath
   INR decreased to 6.3
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2165-11-1**] 01:53 PM
   Ciprofloxacin - [**2165-11-2**] 04:00 AM
   Linezolid - [**2165-11-2**] 10:31 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2165-11-2**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-3**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 91 (86 - 95) bpm
   BP: 149/67(96) {134/61(86) - 173/82(114)} mmHg
   RR: 24 (19 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  2,370 mL
                                                                     60 mL
   PO:
                                                                  1,370 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  1,768 mL
                                                                    330 mL
   Urine:
                                                                  1,768 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    602 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.32/56/75/26/0
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : at
   bases), (Breath Sounds: Crackles : R lung field)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Rash: nonblanching over back
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   7.8 g/dL
   103 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   18 mg/dL
   111 mEq/L
   145 mEq/L
   25.6 %
   8.0 K/uL
        [image002.jpg]
                            [**2165-10-31**]  03:25 PM
                            [**2165-10-31**]  03:48 PM
                            [**2165-11-1**]  03:18 AM
                            [**2165-11-1**]  03:54 AM
                            [**2165-11-1**]  04:46 PM
                            [**2165-11-1**]  07:55 PM
                            [**2165-11-2**]  02:46 AM
                            [**2165-11-2**]  03:15 AM
                            [**2165-11-3**]  03:55 AM
                            [**2165-11-3**]  04:18 AM
   WBC
   8.4
   7.8
   8.0
   Hct
   26.8
   25.1
   25.2
   25.6
   Plt
   [**Telephone/Fax (3) 11525**]
   Cr
   1.5
   1.4
   1.2
   1.0
   TCO2
   26
   26
   28
   28
   30
   Glucose
   123
   111
   99
   109
   103
   Other labs: PT / PTT / INR:56.2/52.5/6.3, ALT / AST:24/44, Alk Phos / T
   Bili:116/0.2, Lactic Acid:0.8 mmol/L, LDH:318 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A 64 year old female with phospholipid syndrome admitted to the unit in
   shock in the setting of pneumonia
   1. Anti-phospholipid syndrome: The patient has a history of strokes and
   clots and GI bleed.  Her goal INR is 3, and she is supratherapeutic at
   6.3 this morning.  We want to avoid over-correcting with vitamin K.
   Likely her INR is elevated in the setting of a fluroquinolone and poor
   nutrition.  We will let her INR drift down on its own instead of active
   reversal.
   - Follow Heme recs
   - Unless she needs procedures, simply observe her Hct and let it drift
   down.  [**Month (only) 51**] consider giving a limited amount of FFP to pull her arterial
   line in the near future.
   - continue ASA, but not dipyridimole
   - No coumadin dose today because of high INR
   .
   2.  Respiratory failure: Her gas this morning was 7.32/56/75/26/0, and
   she seems stabilized with BiPAP at night and nasal cannula during the
   day.  As we do not have cultures, we will simply continue her
   broad-spectrum antibiotics for a total 7-day course.  Today is day 6.
   - Continue Cipro and Linezolid day [**5-26**] for pneumonia.
   - wean back to nasal cannula as tolerated
   - Discuss with respiratory about finding a night machine that is
   similar to what she can use at home.
   - Diuresis with Lasix 20mg IV
   - EKG and cardiac enzymes because of new need for BiPAP
   .
   3.  Rash: The patient has a new blanching papular rash on her back that
   appears to be folliculitis.  Talking to derm over the phone, they
   suggested chlrohexidine rinses and keeping her off of her back as much
   as possible.
   - chlorhexidine washes [**Hospital1 7**] over affected water.
   - frequent turning and encouraging patient to be OOB in chair and
   upright as much as possible.
   .
   4. ARF (corrected): The patient
s creatinine has improved dramatically
   to 1.2 which is only mildly elevated over her baseline.  Originally,
   renal was consulted and found muddy brown casts and low FeNA suggesting
   a combination of causes.   Unlikely to have lupus as cause since
   happened so quickly.
   -daily creatinine
   .
   5. Seizure disorder: No signs of seizure activity at this time.
   - Continue Tegretol, Neurontin, Carbamazapine
   .
   6. Hct decrease: Patient is supratherapeutic right now and has a high
   likelihood of bleeding.  Patient already type and crossed
   Hct has been stable overnight 25.2
25.6
   - Add PPI to treat for possible UGI bleed
   - Will continue to monitior
   - No plan to reverse her antigoagulation at this point
   .
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Pneumoboots
   Access: peripherals, IJ, ART line -> can consider pulling art line
   tomorrow if respiratory status remains stable and IJ once INR more
   normalized.
   Code:  DNR, OK to intubate, confirmed with Husband
   Communication: [**Name2 (NI) **]; Husband [**Name (NI) **]
   Disposition: ICU pending clinical improvement

2165-11-04 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock in setting on PNA
   24 Hour Events:
   - more resp distress this am, had to revert back to BiPAP from nasal
   cannula.  Had CXR, CE, and EKG.  CXR showed possible worsening
   infiltrate on L, trop and MB negative.  Sputum was resent, follow-up
   cultures.  Repeat ABG was unremarkable.
   - diuresis with 20mg IV lasix and afternoon lytes were fine.
   -was tolerating nasal cannula by the afternoon
   - Restarted home anti htn (Dilt & Trando)
   - HTN episode- labetolol 10mg decreased to 160s
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2165-11-1**] 01:53 PM
   Ciprofloxacin - [**2165-11-3**] 06:04 AM
   Linezolid - [**2165-11-3**] 10:18 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2165-11-3**] 08:45 AM
   Furosemide (Lasix) - [**2165-11-3**] 12:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 76 (73 - 96) bpm
   BP: 160/72(102) {145/65(92) - 193/93(128)} mmHg
   RR: 26 (19 - 47) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,260 mL
                                                                    104 mL
   PO:
                                                                    520 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    740 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    450 mL
   Urine:
                                                                  2,250 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.35/55/91.[**Numeric Identifier 143**]/29/2
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   7.7 g/dL
   107 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   15 mg/dL
   111 mEq/L
   145 mEq/L
   24.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2165-11-1**]  07:55 PM
                            [**2165-11-2**]  02:46 AM
                            [**2165-11-2**]  03:15 AM
                            [**2165-11-3**]  03:55 AM
                            [**2165-11-3**]  04:18 AM
                            [**2165-11-3**]  10:34 AM
                            [**2165-11-3**]  01:15 PM
                            [**2165-11-3**]  03:12 PM
                            [**2165-11-4**]  02:49 AM
                            [**2165-11-4**]  03:01 AM
   WBC
   7.8
   8.0
   8.1
   Hct
   25.2
   25.6
   24.9
   Plt
   [**Telephone/Fax (3) 11546**]
   Cr
   1.2
   1.0
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   28
   28
   30
   30
   31
   32
   Glucose
   99
   109
   103
   138
   113
   107
   Other labs: PT / PTT / INR:49.1/47.2/5.4, CK / CKMB /
   Troponin-T:656/24/<0.01, ALT / AST:24/44, Alk Phos / T Bili:116/0.2,
   Lactic Acid:0.8 mmol/L, LDH:318 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR:
   There is a right-sided central venous catheter with its distal lead tip
   is in
   the distal SVC. There is no significant change since the previous
   study.
   There remains a large left retrocardiac opacity and bilateral pleural
   effusions.
   Assessment and Plan
   A 64 year old female with phospholipid syndrome admitted to the unit in
   shock in the setting of pneumonia
   1. Anti-phospholipid syndrome: The patient has a history of strokes and
   clots and GI bleed.  Her goal INR is 3, and she is supratherapeutic at
   5.4 this morning.  We want to avoid over-correcting with vitamin K.
   Likely her INR is elevated in the setting of a fluroquinolone and poor
   nutrition.  We will let her INR drift down on its own instead of active
   reversal.
   - heme said they would leave recs this morning
   - Unless she needs procedures, simply observe her Hct and let it drift
   down.  [**Month (only) 51**] consider giving a limited amount of FFP to pull her arterial
   line in the near future.
   - continue ASA, but not dipyridimole
   - No coumadin dose today because of high INR
   .
   2.  Respiratory failure: Her gas this morning was 7.32/56/75/26/0, and
   she seems stabilized with BiPAP at night and nasal cannula during the
   day.  As we do not have cultures, we will simply continue her
   broad-spectrum antibiotics for a total 7-day course.  Today is day 7.
   - Continue Cipro and Linezolid day [**6-25**] for pneumonia.
   - wean back to nasal cannula as tolerated
   - Discuss with respiratory about finding a night machine that is
   similar to what she can use at home.
   - Diuresis with Lasix 20mg IV
   .
   3. Episode of Urgent HTN last night.  Restarted home meds of  (Dilt &
   Trando). Gave 15mg of labetalol, but likely needs home meds readjusted
   - stop dilt and start labetolol 200mg [**Hospital1 7**]
   .
   4.  Rash: The patient has a new blanching papular rash on her back that
   appears to be folliculitis.  Talking to derm over the phone, they
   suggested chlrohexidine rinses and keeping her off of her back as much
   as possible.
   - chlorhexidine washes [**Hospital1 7**] over affected water.
   - frequent turning and encouraging patient to be OOB in chair and
   upright as much as possible.
   .
   5. ARF (corrected): The patient
s creatinine has improved dramatically
   to 1.2 which is only mildly elevated over her baseline.  Originally,
   renal was consulted and found muddy brown casts and low FeNA suggesting
   a combination of causes.   Unlikely to have lupus as cause since
   happened so quickly.
   -daily creatinine
   .
   6. Seizure disorder: No signs of seizure activity at this time.
   - Continue Tegretol, Neurontin, Carbamazapine
   .
   7. Hct decrease: Patient is supratherapeutic right now and has a high
   likelihood of bleeding.  Patient already type and crossed
   Hct has been stable overnight 25.2
25.6
   - Add PPI to treat for possible UGI bleed
   - Will continue to monitior
   - No plan to reverse her antigoagulation at this point
   .
   FEN: IVF as above, replete electrolytes, tube feeds
   Prophylaxis: Pneumoboots
   Access: peripherals, IJ, ART line -> can consider pulling art line
   tomorrow if respiratory status remains stable and IJ once INR more
   normalized.
   Code:  DNR, OK to intubate, confirmed with Husband
   Communication: [**Name2 (NI) **]; Husband [**Name (NI) **]
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-28**] 08:39 PM
   Multi Lumen - [**2165-10-29**] 01:44 AM
   Arterial Line - [**2165-10-29**] 05:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2165-11-04 10:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2165-11-3**] 12:14 PM
   Feels like breathing is better
   Up in chair
   Nervous about being discharged to subacute setting
   Allergies:
   Penicillins
   Anaphylaxis;
   Codeine
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   very yellow uri
   Erythromycin Base
   Hives; Rash;
   Adhesive Bandage (Topical)
   Rash;
   Tetracycline
   [**Location (un) **] skin;
   Vancomycin
   Hives; Rash;
   Nembutal Sodium (Oral) (Pentobarbital Sodium)
   unknown;
   Atropine
   Rash; Shortness
   Gentamicin
   redman's syndro
   Sulfa (Sulfonamides)
   Hives; Shortnes
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Unknown;
   Tetanus
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2165-11-1**] 01:53 PM
   Ciprofloxacin - [**2165-11-3**] 06:04 AM
   Linezolid - [**2165-11-3**] 10:18 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-11-3**] 12:14 PM
   Other medications:
   tegretol, asa, cipro, sqi, topiramate, linezolid, PPI, trendalapril,
   dilt, cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-4**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 73 (73 - 96) bpm
   BP: 161/74(104) {147/65(92) - 193/93(128)} mmHg
   RR: 20 (19 - 47) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,260 mL
                                                                    193 mL
   PO:
                                                                    520 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    640 mL
   Urine:
                                                                  2,250 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -447 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.35/55/91.[**Numeric Identifier 143**]/29/2
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: diminshed left base
   Abdominal: Soft
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   7.7 g/dL
   253 K/uL
   107 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   15 mg/dL
   111 mEq/L
   145 mEq/L
   24.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2165-11-1**]  07:55 PM
                            [**2165-11-2**]  02:46 AM
                            [**2165-11-2**]  03:15 AM
                            [**2165-11-3**]  03:55 AM
                            [**2165-11-3**]  04:18 AM
                            [**2165-11-3**]  10:34 AM
                            [**2165-11-3**]  01:15 PM
                            [**2165-11-3**]  03:12 PM
                            [**2165-11-4**]  02:49 AM
                            [**2165-11-4**]  03:01 AM
   WBC
   7.8
   8.0
   8.1
   Hct
   25.2
   25.6
   24.9
   Plt
   [**Telephone/Fax (3) 11546**]
   Cr
   1.2
   1.0
   1.0
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   28
   28
   30
   30
   31
   32
   Glucose
   99
   109
   103
   138
   113
   107
   Other labs: PT / PTT / INR:49.1/47.2/5.4, CK / CKMB /
   Troponin-T:656/24/<0.01, ALT / AST:24/44, Alk Phos / T Bili:116/0.2,
   Lactic Acid:0.8 mmol/L, LDH:318 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   64-year-old woman with complex past history (SLE, antiphospholipid
   syndrome, etc) now presents with
          Respiratory Failure
 extubated [**10-30**] with improving status
   since
          Shock
 resolved
          Acute Renal Failure
 improving, felt most c/w ATN
          Probable pneumonia (with possible atelectasis or effusion)
   getting broad ABX given severity of illness
          Lupus
          Antiphospholid syndrome
          Coagulopathy (elevated INR, likely warfarin + other meds)\
          Rash (?folliculitis)
 improving
   We will plan:
          complete 8d course ABX for presumptive HCAP.  Off aztreonam
   given rash.
          Nocturnal CPAP
          Up in chair, PT, etc.
          Appreciate heme
s help with coagulation management
 trying
   to avoid reversal agents if feasible
          Follow Hct.  PPI.  [**Month (only) 51**] need further evaluation in the future
          To floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-29**] 01:44 AM
   Arterial Line - [**2165-10-29**] 05:52 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), OK to intubate
   Disposition : to floor